US09029409B2
To a stirred suspension of trans-2,5-bis-(acetoxymethyl)-1,4-dioxane (14.5 g, 220 mmol, Preparation #11: Step a) in MeOH (40 mL) was added 4N.dioxane.HCl (20 mL, 220 mmol) and heated to reflux for 1 h. Then reaction mixture was cooled to RT and the solvents were evaporated under reduced pressure. The resulting oily residue was triturated with 10% EtOAc in hexane (3×50 mL) to afford trans-2,5-bis-(hydroxymethyl)-1,4-dioxane 9.0 g (97%) as brown solid; 1H NMR (400 MHz, CDCl3): δ 3.85-3.82 (m, 2H), 3.67-3.52 (m, 10H), 2.05 (bs, 1H); MS: m/z 149.1 (m+H)+.

reactant | trans-2,5-bis-(acetoxymethyl)-1,4-dioxane | C(C)(=O)OC[C@@H]1OC[C@H](OC1)COC(C)=O | C10H16O6
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | HCl | 220 mmol, 20 mL | Cl | ClH
solvent | MeOH | 40 mL | CO | CH4O
product | trans-2,5-bis-(hydroxymethyl)-1,4-dioxane | 9.0 g, 97% | OC[C@@H]1OC[C@H](OC1)CO | C6H12O4
